US07427632B2
4-{2-[(1H-Indole-6-carbonyl)amino]-2-(2-fluorophenyl)ethoxy-methyl}piperidine-1-carboxylic acid tert-butyl ester
Using coupling method A, 4-[2-amino-2-(2-fluorophenyl)-ethoxymethyl]piperidine-1-carboxylic acid tert-butyl ester (480 mg, 1.4 mmol) and indole-6-carboxylic acid (242 mg, 1.5 mmol) afforded, after purification (SiO2: 0 to 40% 2 N ammonia/methanol solution in DCM), 355 mg (53%) of the title compound.

reactant | 4-[2-amino-2-(2-fluorophenyl)-ethoxymethyl]piperidine-1-carboxylic acid tert-butyl ester | 1.4 mmol, 480 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)COCC(C1=C(C=CC=C1)F)N | C19H29FN2O3
reactant | indole-6-carboxylic acid | 1.5 mmol, 242 mg | N1C=CC2=CC=C(C=C12)C(=O)O | C9H7NO2
product | 4-{2-[(1H-Indole-6-carbonyl)amino]-2-(2-fluorophenyl)ethoxy-methyl}piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)COCC(C1=C(C=CC=C1)F)NC(=O)C1=CC=C2C=CNC2=C1 | C28H34FN3O4
